US03959275
2.12 Grams of 1-(3-cyano-3,3-diphenylpropyl)-4-phenylpiperidine-4-carboxylic acid are dissolved in 65 ml. of redistilled N,N-dimethylformamide by warming to about 60°C. To the warm solution is added, with stirring, .82 gram of N-hydroxyphthalimide, followed by 1.16 grams of dicyclohexylcarbodiimide. The resultant mixture is stirred at room temperature under calcium chloride, then cooled and filtered. The filtrate is diluted with water and extracted with ethyl acetate. The ethyl acetate layer is washed with water, dried over potassium carbonate and partially concentrated until a precipitate forms. Filtration and repeated crystallizations of the precipitate from a mixture of chloroform and hexane affords N-[1-(3-cyano-3,3-diphenylpropyl)-4-phenylpiperidine-4-carbonyloxy]phthalimide, melting at about 156.5°-157.5°C. The product has the formula ##SPC4##

reactant | 1-(3-cyano-3,3-diphenylpropyl)-4-phenylpiperidine-4-carboxylic acid | C(#N)C(CCN1CCC(CC1)(C(=O)O)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28N2O2
reactant | N-hydroxyphthalimide | .82 gram | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | dicyclohexylcarbodiimide | 1.16 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-[1-(3-cyano-3,3-diphenylpropyl)-4-phenylpiperidine-4-carbonyloxy]phthalimide | C(#N)C(CCN1CCC(CC1)(C(=O)ON1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C36H31N3O4
